US07538931B2
2,2′-Propane-2,2-diylbis(1-propyl-1H-benzimidazole)
To a flask were added 1.4 g 2,2′-propane-2,2-diylbis(1H-benzimidazole) and 30 ml tetrahydrofuran and the mixture was cooled to 10 C under nitrogen. 0.61 g Sodium hydride were added in portions and the reaction mixture was stirred for 20 minutes. 2.6 g 1-iodopropane were added and the mixture was stirred at 22 C for 3.5 hours. The mixture was quenched slowly with 30 ml water and stirred 16 hours. After cooling to 5 C, the solid was filtered and washed with water and purified by silica gel chromatography using 25% ethyl acetate in hexane to 50% ethyl acetate in hexane. 1.4 g of off-white solid was obtained.

reactant | 2,2′-propane-2,2-diylbis(1H-benzimidazole) | 1.4 g | CC(C)(C1=NC2=C(N1)C=CC=C2)C2=NC1=C(N2)C=CC=C1 | C17H16N4
reactant | Sodium hydride | 0.61 g | [H-].[Na+]
reactant | 1-iodopropane | 2.6 g | ICCC | C3H7I
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,2′-Propane-2,2-diylbis(1-propyl-1H-benzimidazole) | 1.4 g | CC(C)(C1=NC2=C(N1CCC)C=CC=C2)C2=NC1=C(N2CCC)C=CC=C1 | C23H28N4
